US08426449B2
Step 1: [3-(2-Methylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester
Prepared according to the procedure described in Example 3, Step 2, using the following starting materials: [3-(2-formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester and methylamine (2M in THF).

reactant | [3-(2-formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C17H13F3O4
reactant | methylamine | 2M | CN | CH5N
product | [3-(2-Methylaminomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CNC)=O | C18H18F3NO3
